US09260381B2
To a cooled (cooling bath −5° C.) stirred suspension of sodium nitrite (320 mg, 4.65 mmol) in conc. HCl (5 mL) was added 2-(5-amino-3-(4-fluorophenyl)-4-(phenylethynyl)-1H-pyrazol-1-yl)acetic acid (521 mg, 1.55 mmol). A further 5 ml of conc. HCl was added and the cooling bath was removed and the reaction mixture was stirred at room temperature for 3.5 h. Water and CH2Cl2 were added to the reaction mixture. The aqueous phase was extracted with CH2Cl2 and the organic phases combined, dried over MgSO4, filtered and evaporated to give 2-(4-chloro-3-(4-fluorophenyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazin-1-yl)acetic acid as a solid (419 mg), which was used as such in the subsequent step.

reactant | sodium nitrite | 4.65 mmol, 320 mg | N(=O)[O-].[Na+]
reactant | 2-(5-amino-3-(4-fluorophenyl)-4-(phenylethynyl)-1H-pyrazol-1-yl)acetic acid | 1.55 mmol, 521 mg | NC1=C(C(=NN1CC(=O)O)C1=CC=C(C=C1)F)C#CC1=CC=CC=C1 | C19H14FN3O2
reactant | HCl | 5 mL | Cl | ClH
reactant | HCl | 5 ml | Cl | ClH
product | 2-(4-chloro-3-(4-fluorophenyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazin-1-yl)acetic acid | 419 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=C(C=C2)F)CC(=O)O | C19H12ClFN4O2
